US04273785
p-Hexylaminoacetophenone Phenylhydrazone
p-Hexylaminoacetophenone dissolved in ethanol acetic acid is treated with a solution of phenylhydrazine in water-acetic acid. After a short time the phenylhydrazone separates out, and is collected and washed with water.

reactant | p-Hexylaminoacetophenone | C(CCCCC)NC1=CC=C(C=C1)C(C)=O | C14H21NO
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol acetic acid | C(C)(=O)O.C(C)O
solvent | water acetic acid | O.C(C)(=O)O
product | p-Hexylaminoacetophenone Phenylhydrazone | C1(=CC=CC=C1)NN=C(C)C1=CC=C(C=C1)NCCCCCC | C20H27N3
